US05792769
c) Benzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-methylphenyl ester
To a solution of benzenesulfonic acid 3-hydroxy-5-methylphenyl ester (528 mg, 2.0 mmol), as prepared in the preceding step, N-(tert-butoxycarbonyl)-4-piperidinemethanol (430 mg, 2.0 mmol), as prepared in step f of Example 1, and triphenylphosphine (525 mg, 2.0 mmol) in tetrahydrofuran (20 mL) at 0° C. was added diethyl azodicarboxylate (349 mg, 2.0 mmol). The reaction mixture was stirred at 0° C. for 2 h and at room temperature for 3 h. The reaction mixture was diluted with methylene chloride (200 mL) and water (50 mL). The organic extract was washed sequentially with saturated NaHCO3 (2×50 mL) and brine (2×50 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography (1:2 ethyl acetate:hexane) to give the title compound as a colorless liquid (781 mg, 84%). 1H-NMR (300 MHz, CDCl3) δ 1.24 (m, 2H), 1.47 (s, 9H), 1.76 (m, 2H), 1.88 (m, 1H), 2.24 (s, 3H), 2.73 (t, 2H), 3.66 (d, 2H), 4.12 (m, 2H), 6.32 (s, 1H), 6.58 (s, 1H), 7.54 (t, 2H), 7.67 (t, 1H), 7.86 (d, 2H).

reactant | benzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 2.0 mmol, 528 mg | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC=CC=C1 | C13H12O4S
reactant | N-(tert-butoxycarbonyl)-4-piperidinemethanol | 2.0 mmol, 430 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 2.0 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.0 mmol, 349 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | Benzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-methylphenyl ester | 781 mg, 84% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC=CC=C1 | C24H31NO6S
